US08022223B2
1-(4-(2-(3-phenoxy-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-ylamino)thiazol-4-yl)piperidin-1-yl)ethanone dihydrochloride
A 20 mL vial was charged with 3-phenoxy-N-(4-(piperidin-4-yl)thiazol-2-yl)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-amine (80 mg, 0.15 mmol), triethylamine (0.043 mL, 0.31 mmol), and THF (2 mL). Acetyl chloride (0.011 mL, 0.15 mmol) was added and stirred at ambient temperature for 10 minutes. The reaction was poured into saturated aqueous NaHCO3 and extracted with EtOAc. The organic layer was dried with sodium sulfate, filtered and concentrated. The residue was purified on silica gel (5 to 10% methanol in EtOAc) to afford the title compound (35.1 mg, 35.9% yield) as a yellow solid after HCl salt formation. 1H NMR (d6-DMSO) δ 8.65 (d, 1H), 8.48 (d, 1H), 8.46 (d, 1H), 7.77 (d, 1H), 7.54 (d, 1H), 7.41 (m, 2H), 7.18 (m, 4H), 6.82 (s, 1H), 4.43 (m, 1H), 3.88 (m, 1H), 3.14 (m, 1H), 2.89 (m, 1H), 2.64 (m, 1H), 2.01 (s, 3H), 1.96 (m, 2H), 1.58 (m, 1H), 1.45 (m, 1H). Mass spectrum (apci) m/z=560.4 (M+H-2HCl).

reactant | 3-phenoxy-N-(4-(piperidin-4-yl)thiazol-2-yl)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-amine | 0.15 mmol, 80 mg | O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC1=C2C(=NC=C1)C=CS2)NC=2SC=C(N2)C2CCNCC2 | C26H23N5OS3
reactant | triethylamine | 0.31 mmol, 0.043 mL | C(C)N(CC)CC | C6H15N
reactant | Acetyl chloride | 0.15 mmol, 0.011 mL | C(C)(=O)Cl | C2H3ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(4-(2-(3-phenoxy-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-ylamino)thiazol-4-yl)piperidin-1-yl)ethanone dihydrochloride | 35.1 mg, 35.9% yield | Cl.Cl.O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC1=C2C(=NC=C1)C=CS2)NC=2SC=C(N2)C2CCN(CC2)C(C)=O | InChI=1S/C28H25N5O2S3.2ClH/c1-18(34)33-12-8-19(9-13-33)23-17-37-28(31-23)32-27-24(35-20-5-3-2-4-6-20)15-21(16-30-27)38-25-7-11-29-22-10-14-36-26(22)25;;/h2-7,10-11,14-17,19H,8-9,12-13H2,1H3,(H,30,31,32);2*1H
